### PR TITLE
Rho, Pi, `Circuit.map`

### PR DESCRIPTION
**Pull request by mitschabaude**
* add `Circuit.map` and `circuit_norm` simp lemmas
* define and prove Rho + Pi gadget

### CODE REVIEW

File: Clean/Circuit/Loops.lean [hunk 1]
```diff
@@ -269,8 +281,8 @@ theorem mapM_forAll {xs : List α} :
 
 theorem mapM_vector_forAll {xs : Vector α n} :
   (xs.mapM circuit |>.operations m).forAll prop ↔
-    ∀ x ∈ xs, ∀ (i : ℕ) (_ : (x, i) ∈ xs.zipIdx), (circuit x |>.operations (m + i*lawful.local_length)).forAll prop := by
-  rw [mapM_forAll_vector_iff_list, mapM_forAll_iff_forM, ←Vector.forM_toList, forM_vector_forAll]
+    ∀ i : Fin n, (circuit xs[i.val] |>.operations (m + i*lawful.local_length)).forAll prop := by
+  rw [mapM_forAll_vector_iff_list, mapM_forAll_iff_forM, ←Vector.forM_toList, forM_vector_forAll']
```
Comment (mitschabaude) [inline Clean/Circuit/Loops.lean:285]: I changed the `mapM` statement to just provide the index and index into the input vector. I found this easier to use in a proof than the original

File: Clean/Gadgets/Rotation64/Theorems.lean [hunk 2]
```diff
@@ -1,26 +1,11 @@
...
-  let low := x % (2^(8 - offset.val))
-  let high := x / (2^(8 - offset.val))
-  low * (2^offset.val) + high
-
-
-def rot_right64 (x : ℕ) (offset : ℕ) : ℕ :=
-  let offset := offset % 64
-  let low := x % (2^offset)
-  let high := x / (2^offset)
-  low * (2^(64 - offset)) + high
```
Comment (mitschabaude) [inline Clean/Gadgets/Rotation64/Theorems.lean:23]: I moved these definitions to `Bitwise`

File: Clean/Specs/Keccak256.lean [hunk 3]
```diff
@@ -82,33 +76,33 @@ def theta (state : Vector ℕ 25) : Vector ℕ 25 :=
   let d := theta_d c
   theta_xor state d
 
-def rho_phi (state : Vector ℕ 25) : Vector ℕ 25 :=
+def rho_pi (state : Vector ℕ 25) : Vector ℕ 25 :=
```
Comment (gio54321) [inline Clean/Specs/Keccak256.lean:79]: oops, my bad for the wrong name :sweat_smile:

**Review by gio54321 — APPROVED** [review]
LGTM
